US04618677
The procedure described in Example 2 was followed, using 1.6 g of phenyl isocyanate, 5.0 g of 3-[4-(4-chlorophenethyl)piperazin-1-yl]propanethiol dihydrochloride, 1.3 g of triethylamine and 50 ml of methylene chloride, to give 3.0 g (44% of theory) of N-phenyl-S-{3-[4-(4-chlorophenethyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride monohydrate as a white crystalline solid, M.p. 237°-239° C.

reactant | phenyl isocyanate | 1.6 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-[4-(4-chlorophenethyl)piperazin-1-yl]propanethiol dihydrochloride | 5.0 g | Cl.Cl.ClC1=CC=C(CCN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-phenyl-S-{3-[4-(4-chlorophenethyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride monohydrate | 3.0 g, 44% | O.Cl.Cl.C1(=CC=CC=C1)NC(O)=SCCCN1CCN(CC1)CCC1=CC=C(C=C1)Cl | InChI=1S/C22H30ClN3OS.2ClH.H2O/c23-20-9-7-19(8-10-20)11-13-26-16-14-25(15-17-26)12-4-18-28-22(27)24-21-5-2-1-3-6-21;;;/h1-3,5-10,24,27-28H,4,11-18H2;2*1H;1H2
